US08629137B2
Step 2: 6-(3,5-difluoro-benzoyl)-4-methyl-3H-benzoxazol-2-one
1.45 g (8.21 mmol) 3,5-difluorobenzoic acid chloride, 1.22 g (8.21 mmol) 4-methyl-3H-benzoxazol-2-one and 4.40 g (33.0 mmol) aluminium trichloride were heated to 125° C. for 1.5 h with stirring. The mixture was mixed with ice water and the product precipitated as a solid was suction filtered and washed with water. After trituration of the precipitate with MeOH it was suction filtered, washed with MeOH and dried i. vac.

reactant | 3,5-difluorobenzoic acid chloride | 8.21 mmol, 1.45 g | FC=1C=C(C(=O)Cl)C=C(C1)F | C7H3ClF2O
reactant | 4-methyl-3H-benzoxazol-2-one | 8.21 mmol, 1.22 g | CC1=CC=CC2=C1NC(O2)=O | C8H7NO2
reactant | aluminium trichloride | 33.0 mmol, 4.40 g | [Cl-].[Cl-].[Cl-].[Al+3]
product | 6-(3,5-difluoro-benzoyl)-4-methyl-3H-benzoxazol-2-one | FC=1C=C(C(=O)C2=CC3=C(NC(O3)=O)C(=C2)C)C=C(C1)F | C15H9F2NO3
